US05211738
(1) Synthesis of N-[3-(N-methoxyimino)butyl]-phthalimide
1.08 g (5.00 mmol) of N-(3-oxobutyl)phthalimide was dissolved in 10 ml of methanol and to the solution was added 0.835 g (10.0 mmol) of O-methylhydroxylamine hydrochloride. To this suspension was added 2 ml of 5N aqueous sodium hydroxide solution, followed by being stirred at room temperature for 16 hours. The reaction mixture was poured into 100 ml of saturated aqueous sodium hydrogencarbonate solution and extracted with chloroform (30 ml×3), and the combined organic layer was dried over magnesium sulfate. Chloroform was distilled off and the residual solids were washed with hexane to give 1.23 g (yield 100%) of the titled compound as white crystals.

reactant | N-(3-oxobutyl)phthalimide | 5.00 mmol, 1.08 g | O=C(CCN1C(C=2C(C1=O)=CC=CC2)=O)C | C12H11NO3
reactant | O-methylhydroxylamine hydrochloride | 10.0 mmol, 0.835 g | Cl.CON
reactant | sodium hydroxide | 5N, 2 ml | [OH-].[Na+]
reactant | sodium hydrogencarbonate | 100 ml | C(O)([O-])=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | N-[3-(N-methoxyimino)butyl]-phthalimide | 1.23 g, yield 100% | CON=C(CCN1C(C=2C(C1=O)=CC=CC2)=O)C | C13H14N2O3
